US08859574B2
A mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (41 mg, 0.1 mmol), 4-chloro-1-morpholinobutan-1-one (29 mg, 0.15 mmol) and DIEA (0.1 mL, 0.58 mmol) in NMP (1 mL) was stirred at 80° C. After 10 h, additional 4-chloro-1-morpholinobutan-1-one (51 mg) was added, and the reaction continued overnight. The crude product was purified by RP-HPLC to give 4-(4-(4-(5-Chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)-1-morpholinobutan-1-one as a white powder; ESMS m/z 571.3.3 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.1 mmol, 41 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | 4-chloro-1-morpholinobutan-1-one | 0.15 mmol, 29 mg | ClCCCC(=O)N1CCOCC1 | C8H14ClNO2
reactant | DIEA | 0.58 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-1-morpholinobutan-1-one | 51 mg | ClCCCC(=O)N1CCOCC1 | C8H14ClNO2
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 4-(4-(4-(5-Chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)-1-morpholinobutan-1-one | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1F)C1CCN(CC1)CCCC(=O)N1CCOCC1)C)NC1=NNC(=C1)C | C28H36ClFN8O2
